US07071201B2
348-4) 1-[1-(2-Fluorophenethyl)piperidin-4-yl]-6-formylindole
A solution of 1-[1-(2-fluorophenethyl)piperidin-4-yl]-6-hydroxyiminomethylindole (1.95 g) in tetrahydrofuran (50 ml) was added dropwise at room temperature under ice cooling and stirring into a suspension of lithium aluminum hydride (0.4 g) in tetrahydrofuran (100 ml). Then the resultant mixture was heated under reflux for 3 hr. Under ice watar cooling, water (1 ml), a 5 N aqueous solution of sodium hydroxide (3 ml) and further water (1 ml) were carefully added dropwise into the reaction mixtures and the mixture was further vigorously stirred. The resulting precipitate was collected by filtration and washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (ethyl acetate) to give the title compound (0.92 g) as a brown wax (yield: 49.1%).

reactant | 1-[1-(2-fluorophenethyl)piperidin-4-yl]-6-hydroxyiminomethylindole | 1.95 g | FC1=C(CCN2CCC(CC2)N2C=CC3=CC=C(C=C23)C=NO)C=CC=C1 | C22H24FN3O
reactant | lithium aluminum hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-Fluorophenethyl)piperidin-4-yl]-6-formylindole | 0.92 g, yield: 49.1% | FC1=C(CCN2CCC(CC2)N2C=CC3=CC=C(C=C23)C=O)C=CC=C1 | C22H23FN2O
